US09290791B2
To 1 mL of DMF/H2O (v/v=9/1) was added 2-(2-(2-bromoethoxy)ethoxy)isoindoline-1,3-dione (50 mg, 0.17 mmol) and sodium azide (16.6 mg, 0.26 mmol). The mixture was heated to 80° C. overnight. Then it was allowed to cool down to room temperature and was extracted with ethyl acetate for 3 times. The combined organic layers were washed with brine and dried over anhydrous Na2SO4. Solvent was removed under reduced pressure, the crude product was purified by silica gel column chromatography (hexanes: ethyl acetate 2:1) to afford 2-(2-(2-azidoethoxy)ethoxy)isoindoline-1,3-dione (44 mg, 0.17 mmol, 100%) as colorless oil. 1H NMR (CDCl3, 500 MHz) δ (ppm): 3.28 (t, J=4.7 Hz, 2H), 3.64 (t, J=4.8 Hz, 2H), 3.84 (t, J=3.8 Hz, 2H), 4.34 (t, J=3.9 Hz, 2H), 7.71 (dd, J=2.6, 4.7 Hz, 2H), 7.79 (dd, J=3.2, 5.0 Hz, 2H).

reactant | 2-(2-(2-bromoethoxy)ethoxy)isoindoline-1,3-dione | 0.17 mmol, 50 mg | BrCCOCCON1C(C2=CC=CC=C2C1=O)=O | C12H12BrNO4
reactant | sodium azide | 0.26 mmol, 16.6 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF H2O | 1 mL | CN(C)C=O.O
product | 2-(2-(2-azidoethoxy)ethoxy)isoindoline-1,3-dione | 0.17 mmol, 44 mg, 100% | N(=[N+]=[N-])CCOCCON1C(C2=CC=CC=C2C1=O)=O | C12H12N4O4
